US04518587
(a) Tert.-butyl N-benzyloxycarbonyl-5-hydroxy-L-tryptophyl-γ-aminobutyrate
85 mmol of N-benzyloxycarbonyl-5-hydroxy-L-tryptophan and 85 mmol of tert.-butyl γ-aminobutyrate are dissolved in 170 ml of acetone and 300 ml of pure chloroform. A solution of 17.7 g (86 mmol) of dicyclohexylcarbodiimide in 80 ml of chloroform is then added and the mixture is stirred at ordinary temperature until the condensation has ended. After evaporation, taking up with ethyl acetate and the customary treatment, 40 g of a crude product are obtained, which are purified by chromatography on a silica column, elution being carried out with a methylene chloride/acetone mixture. This gives 48% of a pure product showing a single spot in TLC on Kieselgel in the system chloroform 20/acetone 6, of Rf=0.45. The NMR spectrum is recorded in solution in CDCl3 : 8.4 ppm (s) (1H) --OH; 7.3 ppm (s) (5H) benzyl; 7.2 to 6.6 ppm (m) (4H) arom; 6.4 ppm (m) (1H) and 5.9 ppm (d) (1H) --NH; 5 ppm (s) (2H) CH2 --Ph; 4.4 ppm (m) (1H) CH(NH)--CO; 3.1 ppm (m) (4H) CH2 --CH(--NH)CO and NH CH2 ; 2.1 to 1.8 ppm (m) 4H: CH2 --CH2 ; 1.4 ppm (s) (9H) tert.-butyl.

reactant | N-benzyloxycarbonyl-5-hydroxy-L-tryptophan | 85 mmol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=C(C=C12)O)C(=O)O | C19H18N2O5
reactant | tert.-butyl γ-aminobutyrate | 85 mmol | NCCCC(=O)OC(C)(C)C | C8H17NO2
reactant | dicyclohexylcarbodiimide | 86 mmol, 17.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | acetone | 170 ml | CC(=O)C | C3H6O
solvent | chloroform | 300 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | Tert.-butyl N-benzyloxycarbonyl-5-hydroxy-L-tryptophyl-γ-aminobutyrate | 40 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC2=CC=C(C=C12)O)C(=O)C(C(=O)OC(C)(C)C)CCN | C27H33N3O6
